US08017611B2
The tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate used as starting material was prepared as follows: N,N-dimethylpyridin-4-amine (42.1 mg) was added to 3-(1,3-benzoxazol-2-yl)-5-bromo-pyridin-2-amine (500 mg) and di-tert-butyl dicarbonate (1.069 g) suspended in DMF (5 ml). The resulting mixture was stirred at 25° C. for 48 hours. The reaction mixture was quenched with a saturated aqueous solution of sodium hydrogencarbonate (15 ml). The resulting precipitate was collected by filtration, washed with water and dried. The crude was taken up into ethyl acetate and filtered through a pad of silica gel. The resulting filtrate was concentrated to afford tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-bromo-2-pyridyl]-N-tert-butoxycarbonyl-carbamate (710 mg) as a solid. NMR Spectrum: (CDCl3): 1.32 (s, 18H), 7.37-7.44 (m, 2H), 7.60 (dd, 1H), 7.80 (dd, 1H), 8.70 (d, 1H), 8.81 (d, 1H); Mass spectrum: M+H+ 491;

reactant | tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-2-pyridyl]-N-tert-butoxycarbonyl-carbamate | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)B2OC(C(O2)(C)C)(C)C)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C28H36BN3O7
reactant | 3-(1,3-benzoxazol-2-yl)-5-bromo-pyridin-2-amine | 500 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)Br)N | C12H8BrN3O
reactant | di-tert-butyl dicarbonate | 1.069 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
catalyst | N,N-dimethylpyridin-4-amine | 42.1 mg | CN(C1=CC=NC=C1)C | C7H10N2
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | tert-butyl N-[3-(1,3-benzoxazol-2-yl)-5-bromo-2-pyridyl]-N-tert-butoxycarbonyl-carbamate | 710 mg | O1C(=NC2=C1C=CC=C2)C=2C(=NC=C(C2)Br)N(C(OC(C)(C)C)=O)C(=O)OC(C)(C)C | C22H24BrN3O5
